US04707550
Ethyl 3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]-2,4-dioxothieno[3,2-d]pyrimidine-1-carboxylate
A mixture of 3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,2-d]pyrimidine-2,4-dione (2.62 g, 6.77 mmol) and sodium hydride (60% in mineral oil, prewashed with pentane, 325 mg, 8.13 mmol) in N,N-dimethylformamide (50 ml) was allowed to equilibrate for one hour. Ethyl chloroformate (0.78 ml, 8.13 mmol) was added to the resultant solution, and stirred at room temperature for 16 hours. The solution was poured into ice water (200 ml) and the resultant solid was collected by filtration, washed with water and air dried. The solid was purified by flash chromatography on silica gel 60 (100 g) using 1% methanol in methylene chloride as eluant to give the product (0.88 g, 28% yield) as a colorless solid, mp 121°-122° C.

reactant | 3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,2-d]pyrimidine-2,4-dione | 6.77 mmol, 2.62 g | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(NC2=C(C1=O)SC=C2)=O | C19H22N4O3S
reactant | sodium hydride | 8.13 mmol, 325 mg | [H-].[Na+]
reactant | Ethyl chloroformate | 8.13 mmol, 0.78 ml | ClC(=O)OCC | C3H5ClO2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]-2,4-dioxothieno[3,2-d]pyrimidine-1-carboxylate | 0.88 g, 28% yield | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(N(C2=C(C1=O)SC=C2)C(=O)OCC)=O | C22H26N4O5S
